US09023858B2
F) 6-amino-5-bromo-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one
To a solution of 6-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one (0.5 g) and sodium acetate (0.143 g) in acetic acid (10 mL) was added dropwise bromine (0.09 mL), and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added water, and the precipitated crystals were collected by filtration to give the title compound (0.1 g).

reactant | 6-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.5 g | NC1=CC(N(C(=N1)SCC)C1=CC=C(C=C1)OCC(F)(F)F)=O | C14H14F3N3O2S
reactant | sodium acetate | 0.143 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.09 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6-amino-5-bromo-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.1 g | NC1=C(C(N(C(=N1)SCC)C1=CC=C(C=C1)OCC(F)(F)F)=O)Br | C14H13BrF3N3O2S
